US09428511B2
To a solution of ethyl 3-(4-bromo-1-((tert-butoxycarbonyl)amino)-1H-imidazol-2-yl)-3-oxopropanoate (1.354 g, 3.60 mmol) in DCM (23.99 ml) at room temperature was added DMF-DMA (1.446 ml, 10.80 mmol). The reaction was stirred at room temperature for 3 h. The resulting yellow suspension was concentrated under reduced pressure to give the crude cyclization product as a yellow oil. A small amount of material was triturated in CH3CN to give a pure sample of ethyl 2-bromo-8-hydroxyimidazo[1,2-b]pyridazine-7-carboxylate as a white solid. LCMS (Method B) m/z 288.0 [M+1], Br-pattern; 1H NMR (400 MHz, MeOD) δ 8.39 (s, 1H), 7.62 (s, 1H), 4.27 (q, J=7.1 Hz, 2H), 1.34 (t, J=7.0 Hz, 3H).

reactant | ethyl 3-(4-bromo-1-((tert-butoxycarbonyl)amino)-1H-imidazol-2-yl)-3-oxopropanoate | 3.60 mmol, 1.354 g | BrC=1N=C(N(C1)NC(=O)OC(C)(C)C)C(CC(=O)OCC)=O | C13H18BrN3O5
reactant | DMF-DMA | 10.80 mmol, 1.446 ml | CN(C)C(OC)OC | C5H13NO2
solvent | DCM | 23.99 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-bromo-8-hydroxyimidazo[1,2-b]pyridazine-7-carboxylate | BrC=1N=C2N(N=CC(=C2O)C(=O)OCC)C1 | C9H8BrN3O3
